US07645776B2
3-(2,4-Dioxo-imidazolidin-1-yl)-benzonitrile
g of 3-Aminobenzonitril were dissolved in 60 ml Dioxan and 0.8 ml of Chloro-acetyl isocyanate added. The reaction mixture was stirred at rt for 2 h. 2.5 ml of DBU were added and the reaction mixture stirred at rt for 40 h. The product was extracted with DCM. MS(ISO): 202.2 (MH+)

reactant | 3-Aminobenzonitril | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | Chloro-acetyl isocyanate | 0.8 ml | ClCC(=O)N=C=O | C3H2ClNO2
reactant | DBU | 2.5 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | Dioxan | 60 ml | O1CCOCC1 | C4H8O2
product | 3-(2,4-Dioxo-imidazolidin-1-yl)-benzonitrile | O=C1N(CC(N1)=O)C=1C=C(C#N)C=CC1 | C10H7N3O2
